US07456164B2
4-[4-(3-Pyrrolidin-1-ylbutoxy)phenyl]tetrahydropyran-4-carbonitrile
4-(4-Hydroxy-phenyl)-tetrahydro-pyran-4-carbonitrile (1.0 g, 4.9 mmol), 1-(3-chloro-1-methyl-propyl)-pyrrolidine (780 mg, 3.90 mmol), DMF (20 ml) and K2CO3 (2.71 g, 19.60 mmol) were reacted together according to general procedure E. The organic phase was washed with 2M NaOH (3×20 ml), water (2×20 ml), dried over MgSO4, fitered and concentrated in vacuo at 35° C. and purified by preparative HPLC, eluting with acetonitrile/water/0.1% TFA as a gradient, to provide the title compound (120 mg, 9%) as a yellow oil. 1H NMR (400 MHz, CDCl3) δ 7.38 (d, 2H), 6.93 (d, 2H), 4.15-3.98 (m, 4H), 3.89 (td, 2H), 2.75-2.51 (m, 5H), 2.22-1.74 (m, 10H), 1.17 (d, 3H).

reactant | 4-(4-Hydroxy-phenyl)-tetrahydro-pyran-4-carbonitrile | 4.9 mmol, 1.0 g | OC1=CC=C(C=C1)C1(CCOCC1)C#N | C12H13NO2
reactant | 1-(3-chloro-1-methyl-propyl)-pyrrolidine | 3.90 mmol, 780 mg | ClCCC(C)N1CCCC1 | C8H16ClN
reactant | K2CO3 | 19.60 mmol, 2.71 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 4-[4-(3-Pyrrolidin-1-ylbutoxy)phenyl]tetrahydropyran-4-carbonitrile | 120 mg, 9% | N1(CCCC1)C(CCOC1=CC=C(C=C1)C1(CCOCC1)C#N)C | C20H28N2O2
